US06500946B1
Production of 6-chloro-9-[2-O-(trifluoromethanesulfonyl)-3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine
164 mg (0.320 mmols) of 6-chloro-9-[3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine was dissolved in 9 ml of methylene chloride, to which was added 253 mg (3.20 mmols) of pyridine. To this mixture, dropwise added was a mixture of 361 ml of trifluoromethanesulfonic acid anhydride and 2 ml of methylene chloride at room temperature, and the resulting mixture was then stirred at room temperature for about 15 minutes. To the reaction mixture was added a mixture of 20 ml of an aqueous saturated solution of ammonium chloride and 10 ml of methylene chloride, by which the reaction was stopped. The organic layer separated was taken out, and then washed with an aqueous saturated solution of ammonium chloride, an aqueous saturated solution of sodium hydrogencarbonate and a saturated saline in that order. Then, the thus-washed organic layer was dried with anhydrous magnesium sulfate, and filtered. The solvent was evaporated out from the filtrate to obtain a white foamy solid. Analyzing this through high-performance liquid chromatography (HPLC) verified that the solid obtained was nearly a single substance. This solid was directly subjected to the next reaction step.

reactant | 6-chloro-9-[3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine | 0.320 mmols, 164 mg | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)C[C@H](O1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H25ClN4O3
reactant | pyridine | 3.20 mmols, 253 mg | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic acid anhydride | 361 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-9-[2-O-(trifluoromethanesulfonyl)-3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](OS(=O)(=O)C(F)(F)F)C[C@H](O1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H24ClF3N4O5S
